US09255090B2
To a solution of 4-isopropoxy-phenol (800 mg, 5.26 mmol, 1.0 eq.) and triethylamine (1.47 mL, 10.5 mmol, 2.0 eq.) in DCM (22 mL), acetyl chloride (0.45 mL, 6.36 mmol, 1.2 eq.) was added dropwise. The reaction mixture was stirred at r.t. for 4 days. Sat. aq. NaHCO3 soln. was added and the layers were separated. The org. phase was dried over MgSO4, filtered, and concentrated in vacuo to give acetic acid 4-isopropoxy-phenyl ester as a yellow oil. The product was used without further purification.

reactant | 4-isopropoxy-phenol | 5.26 mmol, 800 mg, 1.0 eq. | C(C)(C)OC1=CC=C(C=C1)O | C9H12O2
reactant | triethylamine | 10.5 mmol, 1.47 mL, 2.0 eq. | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 6.36 mmol, 0.45 mL, 1.2 eq. | C(C)(=O)Cl | C2H3ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 22 mL | C(Cl)Cl | CH2Cl2
product | acetic acid 4-isopropoxy-phenyl ester | C(C)(C)OC1=CC=C(C=C1)OC(C)=O | C11H14O3
